US05480902
Preparation of 5-(p-Chlorophenyl)-3-(5-Nitro-2-Thienyl)-2-(Trifluoromethyl)Pyrrole
Triethylamine (1.16 g, 11.3 mmol) is added to a solution of 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one (2.97 g, 11.3 mmol) and 2-nitro-5-(2-nitrovinyl)thiophene (2.26 g, 11.3 mmol) in acetonitrile near reflux. The reaction mixture is refluxed for one hour, stirred overnight at room temperature and concentrated in vacuo to obtain a red oil. Chromatography of the oil gives the title product as a tan solid, mp 166°-169° C.

reactant | Triethylamine | 11.3 mmol, 1.16 g | C(C)N(CC)CC | C6H15N
reactant | 4-(p-chlorophenyl)-2-(trifluoromethyl)-3-oxazolin-5-one | 11.3 mmol, 2.97 g | ClC1=CC=C(C=C1)C1=NC(OC1=O)C(F)(F)F | C10H5ClF3NO2
reactant | 2-nitro-5-(2-nitrovinyl)thiophene | 11.3 mmol, 2.26 g | [N+](=O)([O-])C=1SC(=CC1)C=C[N+](=O)[O-] | C6H4N2O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(p-Chlorophenyl)-3-(5-Nitro-2-Thienyl)-2-(Trifluoromethyl)Pyrrole | ClC1=CC=C(C=C1)C1=CC(=C(N1)C(F)(F)F)C=1SC(=CC1)[N+](=O)[O-] | C15H8ClF3N2O2S
